US05232925
5-(4-[4-(N-Methyl-N-(2-benzoxazolyl)amino)butoxy]benzylidene)-2,4-thiazolidinedione
The title compound (m.p. 168° C.) was prepared from 4-[4-(N-methyl-N-(2-benzoxazolyl)amino)butoxy]benzal dehyde (3.5 g) and 2,4-thiazolidinedione (1.4 g) by a similar procedure to that described in Example 4.

reactant | 4-[4-(N-methyl-N-(2-benzoxazolyl)amino)butoxy]benzal dehyde | 3.5 g | CN(C=1OC2=C(N1)C=CC=C2)CCCCOC2=CC=C(C=O)C=C2 | C19H20N2O3
reactant | 2,4-thiazolidinedione | 1.4 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-(4-[4-(N-Methyl-N-(2-benzoxazolyl)amino)butoxy]benzylidene)-2,4-thiazolidinedione | CN(C=1OC2=C(N1)C=CC=C2)CCCCOC2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C22H21N3O4S
